US05885999
a) 4-Aminomethyl-1-t-butoxycarbonyl-4-phenylpiperidine
Di-t-butyldicarbonate (13.10 g, 60 mmol) in 1,4-dioxane (50 mL) was added to a stirred mixture of 4-cyano-4-phenylpiperidine hydrochloride (11.14 g, 50 mmol) and sodium carbonate (13.25 g, 125 mmol) in water (150 mL) and the mixture was stirred at room temperature for 6 h. Water (150 mL) was added and the mixture was extracted with ethyl acetate (3×150 mL). The combined organic fractions were washed with aqueous citric acid (10%, 2×100 mL), aqueous sodium hydrogen carbonate (saturated, 100 mL) and brine (100 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was dissolved in ethanol-acetic acid (95:5, 200 mL), platinum oxide (1 g) was added and the mixture was shaken under hydrogen (50 psi) for 22 h., adding further platinum oxide (1 g) after 4 h. The mixture was filtered through Hyflo, further ethanol (85 mL), acetic acid (15 mL) and platinum oxide (1 g) were added and the mixture was shaken under hydrogen (50 psi) for 46 h., adding further platinum oxide (1 g) after 22 h. The mixture was filtered through Hyflo and the solvent was evaporated under reduced pressure. Aqueous ammonia (saturated, 200 mL) was added and the mixture was extracted with ethyl acetate (3×200 mL). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure to give the crude title compound as an orange oil (15.92 g), δH (250 MHz, CDCl3) 7.41-7.21 (5H, m), 3.74 (2H, m), 3.05 (2H, m), 2.75 (2H, s), 2.19 (2H, m), 1.80 (2H, br s), 1.69 (2H, m), and 1.43 (9H, s).

reactant | Di-t-butyldicarbonate | 60 mmol, 13.10 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-cyano-4-phenylpiperidine hydrochloride | 50 mmol, 11.14 g | Cl.C(#N)C1(CCNCC1)C1=CC=CC=C1
reactant | sodium carbonate | 125 mmol, 13.25 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 150 mL | O | H2O
solvent | Water | 150 mL | O | H2O
product | 4-Aminomethyl-1-t-butoxycarbonyl-4-phenylpiperidine | 15.92 g | NCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H26N2O2
